US06956052B2
5-chloro-2-morpholin-4-ylisonicotinic acid
2,5-Dichloroisonicotinic acid, prepared by the method of E. Marzi, A. Bigi, M. Schlosser, Eur. J. Org. Chem. 2001, 1371-1376, (1.6 g, 0.0083 mol) and morpholine (10.9 g, 0.125 mol) in 4 mL of N,N-dimethylacetamide were heated at 80° C. for 4 days. The volatiles were removed under vacuum and the resulting yellow solid partitioned between water and Et2O. The aqueous layer was acidified to pH=1.5 using an aqueous solution of HCl and extracted once with Et2O (25 mL) and three times with CH2Cl2 (25 mL). The organic extracts were combined and the solvents removed under vacuum. The resulting yellow solid was crystallized from MeOH to afford the title compound 1.07 g (yield: 34%). 1H NMR (300 MHz, d6-DMSO): δ 3.45 (t, 4H, J=4.8 Hz), 3.67 (t, 4H, J=4.8 Hz), 7.06 (s, 1H), 8.21 (s, 1H), 13.79 (s (broad), 1H). 13C HMR (100 MHz, d6-DMSO): δ 45.6, 66.4, 107.3, 116.1, 141.3, 148.3, 158.5, 166.8. M+1=243.

reactant | 2,5-Dichloroisonicotinic acid | ClC=1C=C(C(=O)O)C(=CN1)Cl | C6H3Cl2NO2
reactant | morpholine | 0.125 mol, 10.9 g | N1CCOCC1 | C4H9NO
solvent | N,N-dimethylacetamide | 4 mL | CN(C(C)=O)C | C4H9NO
product | 5-chloro-2-morpholin-4-ylisonicotinic acid | 1.07 g, yield: 34% | ClC1=CN=C(C=C1C(=O)O)N1CCOCC1 | C10H11ClN2O3
